US06194426B1
Methyl 2,7-dichloro-3-(3-pyridyl)-5,6-dihydroindolizinecarboxylate is prepared as in Example 39, from 1 g of methyl 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylate and 1.56 g of N-chlorosuccinimide. 0.7 g of methyl 2,7-dichloro-3-(3-pyridyl)-5,6-dihydroindolizine-1-carboxylate are thus obtained in the form of an orange oil (Rf=0.33; thin layer chromatography on silica gel; eluent: 8/2 dichloromethane/ethyl acetate).

reactant | methyl 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylate | 1 g | N1=CC(=CC=C1)C1=CC(=C2CCCCN12)C(=O)OC | C15H16N2O2
reactant | N-chlorosuccinimide | 1.56 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
product | methyl 2,7-dichloro-3-(3-pyridyl)-5,6-dihydroindolizine-1-carboxylate | 0.7 g | ClC=1C(=C2C=C(CCN2C1C=1C=NC=CC1)Cl)C(=O)OC | C15H12Cl2N2O2
